US09422244B2
A solution of 3.2 mL (1 mol equiv.) 2,2,2-trifluoro-ethylamine in 60 mL acetonitrile was added to a stirred solution of 7.4 g (2.1 mol equiv.) 1,1′-thiocarbonyldiimidazole in 100 mL acetonitrile at room temperature. The reaction mixture was stirred overnight, and 1.96 g (1 mol equiv.) 4-Ethyl-4,5-dihydro-1H-pyrazole (synthesized as described in WO 2008/034863) was added to the reaction mixture. After 1 hour volatiles were removed under reduced pressure and the residue was purified by flash chromatography on silica gel (Et2O:PA=1:3) to afford 2.85 g (60%) 4-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid (2,2,2-trifluoro-ethyl)-amide. 1H NMR (400 MHz, CDCl3) δ 1.01 (t, J=7.5 Hz, 3H), 1.50-1.74 (m, 2H), 3.13-3.23 (m, 1H), 3.86 (dd, J=11.6, 7.1 Hz, 1H), 4.27 (t, J=11.6 Hz, 1H), 4.44 (m, 2H) 6.99 (d, J=1.5 Hz, 1H), 7.32-7.40 (br.s., 1H).

reactant | 2,2,2-trifluoro-ethylamine | 1 mol, 3.2 mL | FC(CN)(F)F | C2H4F3N
reactant | 1,1′-thiocarbonyldiimidazole | 2.1 mol, 7.4 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 4-Ethyl-4,5-dihydro-1H-pyrazole | 1 mol, 1.96 g | C(C)C1C=NNC1 | C5H10N2
solvent | acetonitrile | 60 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 4-ethyl-4,5-dihydro-pyrazole-1-carbothioic acid (2,2,2-trifluoro-ethyl)-amide | 2.85 g, 60% | FC(CNC(=S)N1N=CC(C1)CC)(F)F | C8H12F3N3S
